US04346076
7-Amino-3-[1-(1-methyl-1H-tetrazol-5-ylmethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid.
A solution of 1.54 g. of 7-aminocephalosporanic acid and 1.0 g. (5 mmole) of 1-(1-methyl-1H-tetrazol-5-ylmethyl)-1H-tetrazol-5-thiol in 7.0 ml. of glacial acetic acid was heated in an oil bath to a temperature of about 65°-70° C. To the hot reaction mixture were added 3.6 ml. of boron trifluoride etherate, and the reaction mixture was heated at a temperature of 65°-70° C. for one hour with stirring. The reaction mixture was then cooled to room temperature and 10 ml. of water were added. The reaction mixture was stirred for 15 minutes after water addition, was filtered, and then chilled in an ice bath. The pH of the cold mixture was adjusted to pH 4.5 with concentrated ammonium hydroxide. The precipitate which formed was filtered, washed repeatedly with water, with acetone, and finally with diethyl ether. The off-white solid product was vacuum dried for one hour at 40° C. There was obtained 1.5 g. (80% yield) of the title compound.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-(1-methyl-1H-tetrazol-5-ylmethyl)-1H-tetrazol-5-thiol | 5 mmole | CN1N=NN=C1CN1N=NN=C1S | C4H6N8S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | water | O | H2O
product | 7-Amino-3-[1-(1-methyl-1H-tetrazol-5-ylmethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 80% yield | NC1[C@@H]2N(C(=C(CS2)C(CC2=NN=NN2C)SC2=NN=NN2)C(=O)O)C1=O | C12H14N10O3S2
